US07192657B2
To an ice-cold mixture of 2-(3,5-dibromophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole (11.47 g, 24.4 mmol), triphenylphosphine (0.1816 g, 0.692 mmol), copper (I) iodide (0.062 g, 0.326 mmol) and palladium (II) acetate (0.0594 g, 0.265 mmol) in 100 mL Et3N was added trimethylsilyl acetylene (6.0 g, 61.1 mmol). The mixture was stirred in the ice bath for 30 minutes. The ice bath was removed and after a further 30 minutes warming to room temperature the mixture was heated at reflux for 20 hours. The cooled reaction mixture was slurried in 150 mL methanol. The insoluble material was filtered off and dissolved in chloroform. Precipitation with hexane and evaporation to dryness of the hexane solution gave 2-(3,5-bis-trimethylsilanylethynylphenyl)-5-(4-octyloxyphenyl)-[1,3,4]oxadiazole (1.5 g, 11% yield). The methanol soluble filtrate was evaporated to dryness and dissolved in 250 mL chloroform. About 1.5 L of hexane was added. Filtration gave a dark solid material (3.5 g). Evaporation to dryness of the filtrate gave a further crop of 2-(3,5-bis-trimethylsilanylethynyl-phenyl)-5-(4-octyloxyphenyl)-[1,3,4]oxadiazole (3.5 g, 34% yield in total).

reactant | 2-(3,5-dibromophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole | 24.4 mmol, 11.47 g | BrC=1C=C(C=C(C1)Br)C=1OC(=NN1)C1=CC=C(C=C1)OCCCCCCCC | C22H24Br2N2O2
reactant | triphenylphosphine | 0.692 mmol, 0.1816 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilyl acetylene | 61.1 mmol, 6.0 g | C[Si](C)(C)C#C | C5H10Si
solvent | Et3N | 100 mL | CCN(CC)CC | C6H15N
solvent | methanol | 150 mL | CO | CH4O
catalyst | copper (I) iodide | 0.326 mmol, 0.062 g | [Cu]I
catalyst | palladium (II) acetate | 0.265 mmol, 0.0594 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(3,5-bis-trimethylsilanylethynylphenyl)-5-(4-octyloxyphenyl)-[1,3,4]oxadiazole | 1.5 g, 11% yield | C[Si](C=1C(=C(C=C(C1)[Si](C)(C)C)C=1OC(=NN1)C1=CC=C(C=C1)OCCCCCCCC)C#C)(C)C | C30H42N2O2Si2
